US06960575B2
(2RS,3RS)-3-Amino-2-hydroxy-4-phenyl-1,1,1-trifluorobutane hydrochloride (Reference compound No. 32-1)
12 N Hydrochloric acid is added to a suspension of (2RS, 3RS)-3-benzoylamino-2-hydroxy-4-phenyl-1,1,1-trifluorobutane (3.00 g, Reference compound No. 31-1), ethanol (60 ml) and water (60 ml), and the mixture is refluxed for one day. After standing, the reaction mixture is concentrated under reduced pressure, diethyl ether is added to the resulting residue, and the whole is extracted with water. The extract is concentrated under reduced pressure to give the titled reference compound (1.58 g).

reactant | Hydrochloric acid | 12 N | Cl | ClH
reactant | (2RS, 3RS)-3-benzoylamino-2-hydroxy-4-phenyl-1,1,1-trifluorobutane | C(C1=CC=CC=C1)(=O)NC(C(C(F)(F)F)O)CC1=CC=CC=C1 | C17H16F3NO2
reactant | ethanol | 60 ml | C(C)O | C2H6O
solvent | water | 60 ml | O | H2O
product | (2RS,3RS)-3-Amino-2-hydroxy-4-phenyl-1,1,1-trifluorobutane hydrochloride | 1.58 g | Cl.NC(C(C(F)(F)F)O)CC1=CC=CC=C1 | InChI=1S/C10H12F3NO.ClH/c11-10(12,13)9(15)8(14)6-7-4-2-1-3-5-7;/h1-5,8-9,15H,6,14H2;1H
